US07414036B2
4-Chloro-2-(hydroxymethyl)pyridine
A solution of 4-chloropyridine N-oxide (5 g, 38.6 mmol) and trimethyloxonium tetrafluoroborate (5.94 g, 40.1 mmol) in CH2Cl2 (115 mL) was stirred for two hours at ambient temperature. The solvent was evaporated and the residue taken up in MeOH (115 mL) and heated to near boiling. Ammonium persulfate (1.76 g, 7.72 mmol) dissolved in H2O (7.7 mL) was added and the mixture was heated to reflux for 30 min. A second portion of ammonium persulfate (0.88 g) in H2O (3.9 mL) was added and the mixture was refluxed for another 30 min. The solvent was evaporated and the residue was partitioned between CH2Cl2 and aqueous Na2CO3 (10% w/v). The organic layer was washed with H2O, dried over MgSO4, and evaporated leaving 2.4 g (43%) of the title compound. 1H NMR (CDCl3) δ 8.20 (d, 1H, J=5.0 Hz, H-6); 7.31 (s, 1H, H-3); 7.04 (d, 1H, J=5.0 Hz, H-5); 5.46 (s, 1H, OH); 4.61 (s, 2H, CH2).

reactant | 4-chloropyridine N-oxide | 38.6 mmol, 5 g | ClC1=CC=[N+](C=C1)[O-] | C5H4ClNO
reactant | trimethyloxonium tetrafluoroborate | 40.1 mmol, 5.94 g | F[B-](F)(F)F.C[O+](C)C
reactant | Ammonium persulfate | 7.72 mmol, 1.76 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | ammonium persulfate | 0.88 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | CH2Cl2 | 115 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 7.7 mL | O | H2O
solvent | H2O | 3.9 mL | O | H2O
product | 4-Chloro-2-(hydroxymethyl)pyridine | 2.4 g, 43% | ClC1=CC(=NC=C1)CO | C6H6ClNO
